US06664291B2
N-{4-[3-(4-Fluoro-benzenesulfonyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-malonamic acid methyl ester
To a solution of 4-(4-amino-2,6-dimethyl-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol (5.53 g, 14.3 mmol) in dry THF (30 mL) was added methyl malonyl chloride (1.68 mL, 15.7 mmol). The solution was stirred 2 h at RT then concentrated to a pink solid. The solid was dissolved in a minimal amount of CH2Cl2, passed through silica gel and eluted with 2% methanol in CH2Cl2 (750 mL). The solution was concentrated to a pink solid, and the solid was dissolved in EtOAc (30 ml) and cyclohexane (200 mL) was added gradually to give an oily solid, which became more crystalline on stirring at RT. The suspension was stirred 24 h at RT, then filtered. The white solid was washed with cyclohexane (3×20 mL) and petroleum ether (20 mL) and dried to give the title compound of Step E (4.88 g). MS (APCl+) Calc.:487.1, Found: 488.3 (M+1).

reactant | 4-(4-amino-2,6-dimethyl-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 14.3 mmol, 5.53 g | NC1=CC(=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=C1)C)C | C20H18FNO4S
reactant | methyl malonyl chloride | 15.7 mmol, 1.68 mL | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | N-{4-[3-(4-Fluoro-benzenesulfonyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-malonamic acid methyl ester | 4.88 g | COC(CC(=O)NC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)S(=O)(=O)C1=CC=C(C=C1)F)C)=O | C24H22FNO7S
